US05597922
3-Bromo-4,5-dichloro-2-nitroaniline.
The procedure of Mitchell and Williams, J. Org. Chem. 44:4733 (1979) was modified to obtain the title compound. A mixture of 4,5-dichloro-2-nitroaniline (1.59 g, 7.68 mmol, Aldrich), DMF (30 mL, dist. at reduced pressure) and NBS (1.51 g, 8.48 mmol, Aldrich) was stirred at room temperature (25° C.) for two days. The dark brown solution was poured into deionized water (200 mL) and allowed to set for 30 minuets. The mixture was filtered and the solids washed with deionized water giving 1.81 g (82.4%) of the crude bromide as a yellow powder. The powder was crystallized from ethanol/water (5:1) giving 1.74 g (79.2%) of the title compound as bright yellow needles, mp. 132°-4° C., pure by 1H NMR. 1H NMR (CDCl3) 6.82 (s, 2H), 8.32 (s, 1H).

reactant | 4,5-dichloro-2-nitroaniline | 7.68 mmol, 1.59 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | NBS | 8.48 mmol, 1.51 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | water | 200 mL | O | H2O
product | 3-Bromo-4,5-dichloro-2-nitroaniline | 1.74 g, 79.2% | BrC=1C(=C(N)C=C(C1Cl)Cl)[N+](=O)[O-] | C6H3BrCl2N2O2
